US04841042
Sodium (5R,6S)-2-(4-pyridylthio)-6-[(1R)-1-hydroxyethyl]-carbapen-2-em-3-carboxylate
2.8 ml (1.4 mmol - 1.05 equivalents) of 0.5 M sodium 2-ethylhexanoate in ethyl acetate, 35 mg (0.13 mmol - 0.1 equivalent) of triphenylphosphine and 35 mg (0.03 mmol) of tetrakis-(triphenylphosphine)-palladium (0) were successively added to a solution of 462 mg (1.33 mmol) of allyl (5R,6S)-2-(4-pyridylthio)-6-[(1R)-1-hydroxyethyl]-carbapen-2-em-3-carboxylate in 3.4 ml of anhydrous dichloromethane, and the mixture was stirred at room temperature for 1 h. It was then diluted with 20 ml of anhydrous acetone. The precipitate was filtered off with suction and vigorously stirred with 50 ml of ether for 0.5 h, again filtered off with suction and dried over P4O10 under high vacuum. 361 mg (83%) of the title compound were obtained as a colorless hygroscopic powder.

reactant | sodium 2-ethylhexanoate | 0.5 M, 2.8 ml | C(C)C(C(=O)[O-])CCCC.[Na+]
reactant | triphenylphosphine | 35 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | allyl (5R,6S)-2-(4-pyridylthio)-6-[(1R)-1-hydroxyethyl]-carbapen-2-em-3-carboxylate | 1.33 mmol, 462 mg | N1=CC=C(C=C1)SC=1C[C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O | C17H18N2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 3.4 ml | ClCCl | CH2Cl2
solvent | acetone | 20 ml | CC(=O)C | C3H6O
catalyst | tetrakis-(triphenylphosphine)-palladium (0) | 0.03 mmol, 35 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Sodium (5R,6S)-2-(4-pyridylthio)-6-[(1R)-1-hydroxyethyl]-carbapen-2-em-3-carboxylate | 361 mg, 83% | N1=CC=C(C=C1)SC=1C[C@H]2N(C1C(=O)[O-])C([C@@H]2[C@@H](C)O)=O.[Na+] | InChI=1S/C14H14N2O4S.Na/c1-7(17)11-9-6-10(21-8-2-4-15-5-3-8)12(14(19)20)16(9)13(11)18;/h2-5,7,9,11,17H,6H2,1H3,(H,19,20);/q;+1/p-1/t7-,9-,11-;/m1./s1
